Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.31075364733
[H:1][C:2][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.37366693788
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.11853551841
[O:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.81395522308
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.9999493622
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.98502919432
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.26541387079
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[H:1][C:2]#[C:3][C:4][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:5],4.76721831526
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],2.20839122925
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9](=[O:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-3.70277459885
[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[C:3]#[C:4]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-7.322145957739999
[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10],-2.29953312127
[H:1][O:2]/[C:3](=[C:5]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.8985256033999995
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])[H:13],4.50284863076
[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.00565060825
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.69539915
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.52055345286
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][C:2][C:3],4.19516114668
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],0.900232830039
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:4],1.76142645027
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[H:1][C:2],6.46751913775
[C:3]([H:4])([H:5])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][C:2][C:7]([H:6])([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-4.22350915435
[C:4]([H:5])(=[C:6]([H:7])[H:8])[H:12].[H:1][O:2]/[C:3]=[C:10](\[H:11])[C:13]([H:9])([H:14])[H:15]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],0.23710820599
[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],0.972862017509
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.007060558469998
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-1.57160816918
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12],7.464499062080001
